US07067517B2
4,4-Dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ol
A mixture of 6′-methoxy-4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl (1.28 g, 5.81 mmol) and pyridine hydrochloride (5.00 g, 43.3 mmol) was heated in a kugelrohr oven at 200° C. for 15 minutes. After cooling to room temperature water was added and the solution was made slightly basic with aqueous 1N sodium hydroxide. The solution was extracted three times with dichloromethane and the combined organic layers were dried over sodium sulphate, filtered and evaporated in vacuo, yielding the title compound (0.86 g, 72% yield).

reactant | 6′-methoxy-4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | 5.81 mmol, 1.28 g | COC1=CC=C(C=N1)N1CCC(CC1)(C)C | C13H20N2O
reactant | pyridine hydrochloride | 43.3 mmol, 5.00 g | Cl.N1=CC=CC=C1
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 4,4-Dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ol | 0.86 g, 72% yield | CC1(CCN(CC1)C=1C=NC(=CC1)O)C | C12H18N2O
